Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
shellfish derived
 
Attending: ___
 
Chief Complaint:
Asymptomatic
 
Major Surgical or Invasive Procedure:
___ - 1.  Valve-sparing aortic root replacement with a 
32-mm Valsalva graft.  2.  Ascending aortic aneurysm resection 
with 30-mm Gelweave
graft.

 
History of Present Illness:
Mr. ___ is a nice ___ year old man with a history of ascending 
aortic aneurysm who was first evaluated in ___. A CT 
scan in ___ demonstrated aorta measured approximately 
4.7-5.0 cm by independent review of Dr. ___. He needed 
additional work-up, including echocardiogram. A echocardiogram 
revealed moderately dilated aortic root at the sinus level. 
There was effacement of the sinotubular junction. The left cusp 
of the aortic valve is hypoplastic (technically there are 3 
aortic valve leaflets but the left cusp is hypoplastic). Chest 
CT in ___ was significant for an ascending aortic aneurysm to 
the mid aortic arch measuring up to 4.8 cm.  

Since last office visit there has been no change in his clinical 
condition or past medical history. Overall, he feels well with 
no complaints of chest and/or back pain. He presents for 
aneurysm surveillance. A CTA prior to his visit demonstrated 
stable ascending aortic aneurysm measuring 4.4 cm. The aortic 
root measures 5.7 cm, which is also stable from the previous 
studies. Given the abnormal size and appearance of the aortic 
root as well as his family history of aortic dissection he was 
scheduled for surgical intervention.
 
Past Medical History:
Aortic Root Aneurysm
Ascending Aortic Aneurysm
Glaucoma, left eye
Hyperlipidemia
Hypertension
Obesity
Vertigo 

 
Social History:
___
Family History:
Father had aortic dissection repair at ___ age ___, lived 15 
more years. otherwise no family heart disease

 
Physical Exam:
HR: 71.  BP: 152/94.  RR: 16.  O2 sat: 97% RA.  
Height: 67"    Weight: 224 lbs

General: WDWN, mildly anxious middle aged man[x]
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck: Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x] Irregular [] Murmur none 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x] no bruits [x]
Extremities: Warm [x], well-perfused [x] Edema: none 
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: 1  Left: 1
___           Right: 1  Left: 1
Radial       Right: TR band   Left: 2

Carotid Bruit: none 
.
DISCHARGE EXAM:
General/Neuro:  NAD  [x] A/O x3 [x] non-focal [x] 
Cardiac: RRR [x]  Irregular []  Nl S1 S2 []
Lungs: CTA [x]occ. right mild EW, No resp distress [x]
Abd:  NBS [x]Soft [x] ND [x] NT []
Extremities:  no CCEx[] Pulses  doppler [] palpable []  
Wounds: Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []
 
Pertinent Results:
Cardiac Catheterization ___
Dominance: Right
Large caliber and tortuous coronary arteries.
LMCA: normal.
LAD: normal.
LCX: normal.
RCA: normal.
There is a fistula between the coronary artery (appears to arise 
from proximal LAD) to what appears to be the pulmonary artery. 
Size of the shunt does not appear large on angiography.

Transesophageal Echocardiogram ___
Pre-CPB:
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is top normal/borderline dilated. 
Overall left ventricular systolic function is low normal (LVEF 
50-55%). The right ventricular cavity is mildly dilated with 
mild global free wall hypokinesis. The aortic root is moderately 
dilated at the sinus level. The ascending aorta is mildly 
dilated. The descending thoracic aorta is mildly dilated. There 
are simple atheroma in the descending thoracic aorta. No 
thoracic aortic dissection is seen. The aortic valve leaflets 
(3) are mildly thickened. Mild (1+) central aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. Trivial 
mitral regurgitation is seen. Dr. ___ was notified in 
person of the results at time of study. 

Post-CPB:
Brightly echogenic material is seen in the aortic root, 
consistent with root graft repair. The aortic leaftets are 
normally mobile. There are two jets of AI, one is eccentric, 
altogether likely mild to moderate. Biventricular systolic 
function remains unchanged. The estimated LVEF is 50%. The MR 
remains trace. Other valvular function remains unchanged. There 
is no evidence of aortic dissection.  

Transthoracic Echocardiogram ___
Overall left ventricular systolic function is low normal (LVEF 
50%). The right ventricular cavity is mildly dilated with 
depressed free wall contractility. Aortic regurgitation is 
present, but cannot be quantified (most likely mild to moderate, 
but this was not fully interrogated on this limited study and 
would have been better assessed on the immediate post-op TEE 
images). The estimated pulmonary artery systolic pressure is 
normal. There is a very small pericardial effusion. No right 
atrial or right ventricular diastolic collapse is seen. There is 
accentuated respiratory variation in mitral valve inflows, which 
could be due to rapid changes in intrathoracic pressure at the 
respiratory rate of 25/min measured on the respirometer. 

IMPRESSION: Very small pericardial effusion.
.

___ 04:44AM BLOOD WBC-8.7 RBC-2.94* Hgb-8.2* Hct-25.1* 
MCV-85 MCH-27.9 MCHC-32.7 RDW-14.5 RDWSD-45.1 Plt ___
___ 05:38AM BLOOD WBC-6.5# RBC-2.93* Hgb-8.3* Hct-25.0* 
MCV-85 MCH-28.3 MCHC-33.2 RDW-14.4 RDWSD-44.8 Plt ___
___ 05:55AM BLOOD ___
___ 04:44AM BLOOD Glucose-82 UreaN-21* Creat-1.0 Na-143 
K-3.9 Cl-101 HCO3-24 AnGap-18
___ 06:30AM BLOOD Glucose-134* UreaN-16 Creat-0.9 Na-137 
K-4.2 Cl-103 HCO3-25 AnGap-9*
___ 04:44AM BLOOD Mg-2.3
 
Brief Hospital Course:
He was admitted on ___ for cardiac catheterization which 
demonstrated no obstructive coronary artery disease. He 
underwent routine preoperative testing and evaluation. He 
remained stable overnight and was taken to the operating room 
the following morning. He underwent valve-sparing aortic root 
replacement and ascending aorta replacement. Please see 
operative note for full details. He tolerated the procedure well 
and was transferred to the CVICU in stable condition for 
recovery and invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated later that day. Beta blocker was initiated and he was 
aggressively diuresed toward his preoperative weight. He was 
transfused PRBCs for acute blood loss anemia. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery.  He was evaluated by the physical 
therapy service for assistance with strength and mobility. By 
the time of discharge on POD 5 he was ambulating freely, the 
wound was healing, and pain was controlled with oral analgesics. 
He was discharged to ___ in good condition with 
appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alphagan P (brimonidine) 0.1 % ophthalmic (eye) BID 
2. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Lisinopril 40 mg PO DAILY 
5. Pravastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Aspirin EC 81 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID 
hold for loose stool  
4.  Furosemide 40 mg PO BID Duration: 10 Days  
5.  GuaiFENesin ER 1200 mg PO Q12H Duration: 5 Days  
6.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H  
7.  Metoprolol Tartrate 37.5 mg PO TID  
8.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0 
9.  Potassium Chloride 20 mEq PO BID Duration: 10 Days  
10.  Ranitidine 150 mg PO BID  
11.  Senna 17.2 mg PO DAILY 
hold for loose stool  
12.  Alphagan P (brimonidine) 0.1 % ophthalmic (eye) BID  
13.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
14.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
15.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Aortic Root Aneurysm
Ascending Aortic Aneurysm
Acute Blood Loss Anemia 

Glaucoma, left eye
Hyperlipidemia
Hypertension
Obesity
Vertigo 

 
Discharge Condition:
Alert and oriented x3 non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
no edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___